US04182887
3-Amino-6-(2,6-dimethyl-morpholino)-4-phenyl-1H-pyrazolo[3,4-b]-pyridine was prepared analogous to Example 1 from 2-chloro-6-(2,6-dimethyl-morpholino)-4-phenyl-3-cyano-pyridine (m.p. 165°-178° C.; mixture of isomers) and hydrazine hydrate. M.p. of the hydrochloride: 235°-238° C. (decomp.).

reactant | 2-chloro-6-(2,6-dimethyl-morpholino)-4-phenyl-3-cyano-pyridine | ClC1=NC(=CC(=C1C#N)C1=CC=CC=C1)N1CC(OC(C1)C)C | C18H18ClN3O
reactant | hydrazine hydrate | O.NN
reactant | hydrochloride | Cl | ClH
product | 3-Amino-6-(2,6-dimethyl-morpholino)-4-phenyl-1H-pyrazolo[3,4-b]-pyridine | NC1=NNC2=NC(=CC(=C21)C2=CC=CC=C2)N2CC(OC(C2)C)C | C18H21N5O
